US08357711B2
Ethyl 4-{[(2,4-dimethoxybenzyl)(1,3-thiazol-2-yl)amino]sulfonyl}-3-fluorobenzoate
(2,4-Dimethoxy-benzyl)-thiazol-2-yl-amine (576 mg, 2.30 mmol) was dissolved in THF (7 mL, 80 mmol) and cooled in an ice bath. 1.0 M of lithium hexamethyldisilazide in THF (2.5 mL) was added dropwise to the reaction. After 30 minutes, a solution of 4-chlorosulfonyl-3-fluoro-benzoic acid ethyl ester (559 mg, 2.10 mmol) in THF (5 mL, 60 mmol) was added dropwise to the reaction. The reaction was stirred overnight then quenched with 20 mL saturated aqueous ammonium chloride. The aqueous phase was extracted with ethyl acetate (3×). The combined organic layers were washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified on the Isco (80 g SiO2 cartridge, 60 mL/min, hexanes to ethyl acetate) to afford the product as an orange oil (496 mg, 44%).

reactant | (2,4-Dimethoxy-benzyl)-thiazol-2-yl-amine | 2.30 mmol, 576 mg | COC1=C(CNC=2SC=CN2)C=CC(=C1)OC | C12H14N2O2S
reactant | lithium hexamethyldisilazide | 1.0 M | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 4-chlorosulfonyl-3-fluoro-benzoic acid ethyl ester | 2.10 mmol, 559 mg | C(C)OC(C1=CC(=C(C=C1)S(=O)(=O)Cl)F)=O | C9H8ClFO4S
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | THF | 60 mmol, 5 mL | C1CCOC1 | C4H8O
solvent | THF | 80 mmol, 7 mL | C1CCOC1 | C4H8O
product | Ethyl 4-{[(2,4-dimethoxybenzyl)(1,3-thiazol-2-yl)amino]sulfonyl}-3-fluorobenzoate | 496 mg, 44% | COC1=C(CN(S(=O)(=O)C2=C(C=C(C(=O)OCC)C=C2)F)C=2SC=CN2)C=CC(=C1)OC | C21H21FN2O6S2
